US08735579B2
N-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-4-methyl-3-(2-methylamino-pyrimidin-4-yloxy)-benzamide
A mixture of 200 mg N-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-3-(2-chloro-pyrimidin-4-yloxy)-4-methyl-benzamide and 2 ml of a 2 M methylamine solution in tetrahydrofuran is stirred overnight at ambient temperature in a closed microwave glass container. For working up the reaction mixture is diluted with ethyl acetate, washed with water and saturated aqueous sodium chloride solution, dried on magnesium sulphate and evaporated down. The crude product is chromatographed on a silica gel column with ethyl acetate/cyclohexane (50:50→100:0) as eluant.

reactant | N-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-3-(2-chloro-pyrimidin-4-yloxy)-4-methyl-benzamide | 200 mg | C(C)(C)(C)C=1C=C(C(=C(C1)NC(C1=CC(=C(C=C1)C)OC1=NC(=NC=C1)Cl)=O)OC)NS(=O)(=O)C | C24H27ClN4O5S
reactant | methylamine | 2 M | CN | CH5N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(5-tert-butyl-3-methanesulphonylamino-2-methoxy-phenyl)-4-methyl-3-(2-methylamino-pyrimidin-4-yloxy)-benzamide | C(C)(C)(C)C=1C=C(C(=C(C1)NC(C1=CC(=C(C=C1)C)OC1=NC(=NC=C1)NC)=O)OC)NS(=O)(=O)C | C25H31N5O5S
